US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 17 from N-[(1S)-1-(1-tert-butoxycarbonyl-5-chlorobenzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide and trifluoroacetic acid. Yield: 68%; Rf value: 0.50 (silica gel; ethyl acetate/ethanol/acetic acid=85:15:5); C24H25ClN4O4 (468.94); mass spectrum: (M+H)+=469/471 (chlorine isotope).

reactant | N-[(1S)-1-(1-tert-butoxycarbonyl-5-chlorobenzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)Cl)[C@H](CCC(=O)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C29H33ClN4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | ethyl acetate ethanol acetic acid | C(C)(=O)OCC.C(C)O.C(C)(=O)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 68% | ClC1=CC2=C(NC(=N2)[C@H](CCC(=O)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C24H25ClN4O4
